* source EV_1_1_CIRCUITOS DE RECTIFICACION NOCONTROLADOS
L_L1         N14674 N14700  10mH  
R_R1         0 N14700  10 TC=0,0 
V_V1         N14664 0  
+SIN 0 311 50 0 0 0
D_D1         N14664 N14674 Dbreak 
D_D19         N19563 OUT+ Dbreak 
R_R7         N19497 OUT+  10 TC=0,0 
R_R6         N19686 N19563  10m TC=0,0 
C_C4         N19497 OUT+ Cbreak 1mF 
D_D18         N19497 N19563 Dbreak 
D_D17         N19497 N19563 Dbreak 
V_V7         N19471 N19563  AC 0
+SIN 0 311V 50Hz 0 0 0
L_L7         N19471 N19686  1mH  
D_D16         N19563 OUT+ Dbreak 
C_C1         N21139 N21107 Cbreak 1mF 
D_D11         0 N21087 Dbreak 
C_C2         0 N21139 Cbreak 1mF 
D_D10         N21087 N21107 Dbreak 
V_V4         N21079 N21139  
+SIN  311 50 0 0 0
L_L5         N21079 N21087  1mH  
R_R3         0 N21107  100 TC=0,0 
